US06083961
To a solution of 4-benzyloxy-1-(3-hydroxypropyl)-2-methylthio-1H-benzimidazole (59 mg) in dimethylformamide (1 ml) was added sodium hydride at ambient temperature, and the mixture was stirred overnight. Water was added to the reaction mixture, and extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (chloroform:methanol=10:1, v/v) and pulverized with diisopropyl ether to give 9-benzyloxy-3,4-dihydro-2H-[1,3]oxazino-[3,2-a]benzimidazole (43 mg).

reactant | 4-benzyloxy-1-(3-hydroxypropyl)-2-methylthio-1H-benzimidazole | 59 mg | C(C1=CC=CC=C1)OC1=CC=CC=2N(C(=NC21)SC)CCCO | C18H20N2O2S
reactant | sodium hydride | [H-].[Na+]
reactant | Water | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 9-benzyloxy-3,4-dihydro-2H-[1,3]oxazino-[3,2-a]benzimidazole | 43 mg | C(C1=CC=CC=C1)OC1=CC=CC=2N3C(=NC21)OCCC3 | C17H16N2O2
